US08440689B2
C. 2-(4-Ethylpiperazin-1-yl)-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-5-one
A mixture of methyl 4-cyano-2-(4-ethylpiperazin-1-yl)-6-(m-tolylamino)pyrimidine-5-carboxylate (49.8 mg, 0.131 mmol) and palladium on carbon (10.1 mg) in EtOH (3 mL) and 1N HCl (3 mL) was stirred at RT for 2 h under a hydrogen atmosphere. The insoluble materials were filtered off, and the filtrate was concentrated under reduced pressure. The residue was treated with saturated aq NaHCO3 and EtOAc for 3 h. The mixture was extracted with EtOAc. The organic layers were washed with aq NaHCO3, water, and brine, were dried over anhydrous Na2SO4, and then filtered. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography twice (SiO2, EtOAc then DM1020 EtOAc/MeOH=20/1) to give the title compound as a white solid (19.8 mg, 43%). 1H NMR (500 MHz, CDCl3) δ ppm 1.19 (br s, 3H), 2.36 (s, 3H), 2.5 (br s, 6H), 4.08 (br s, 4H), 4.23 (s, 2H), 5.50 (s, 1H), 6.91-6.92 (m, 1H), 7.22-7.26 (m, 1H), 7.49-7.54 (m, 2H), 8.44 (s, 1H). [M+H] calc'd for C19H25N6O, 353. found, 353.

reactant | methyl 4-cyano-2-(4-ethylpiperazin-1-yl)-6-(m-tolylamino)pyrimidine-5-carboxylate | 0.131 mmol, 49.8 mg | C(#N)C1=NC(=NC(=C1C(=O)OC)NC=1C=C(C=CC1)C)N1CCN(CC1)CC | C20H24N6O2
catalyst | palladium on carbon | 10.1 mg | [Pd] | Pd
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | HCl | 1N, 3 mL | Cl | ClH
product | 2-(4-Ethylpiperazin-1-yl)-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-5-one | 19.8 mg, 43% | C(C)N1CCN(CC1)C=1N=C(C2=C(N1)CNC2=O)NC=2C=C(C=CC2)C | C19H24N6O
